US07429665B2
2-((4-(1-(pyridin-4-yl)-1H-imidazol-2-yl)phenoxy)methyl)quinoline
According to the procedure for preparation of 2-((4-(3-methyl-5-(pyridin-4-yl)-3H-1,2,3-triazol-4-yl)phenoxy)methyl)quinoline, 4-(1-(pyridin-4-yl)-1H-imidazol-2-yl)phenol (90 mg), 2-(chloromethyl)quinoline hydrochloride (81 mg) and cesium carbonate (495 mg) gave 120 mg as an off-white solid (84%). 1H NMR (CDCl3, 400 mHz) δ 8.59 (m, 2H), 8.16 (d, 1H, J =8.3 Hz), 8.04 (d, 1H, J=8.3 Hz), 7.79 (d, 1H, J=7.9 Hz), 7.70 (ddd, 1H), 7.60 (d, 1H, J=8.3 Hz), 7.52 (ddd, 1H), 7.28 (m, 2H), 7.22 (d, 1H, J=1 Hz), 7.15 (d, 1H, J=1 Hz), 7.11 (m, 2H), 6.94 (m, 2H), 5.34 (s, 2H). HPLC-MS (system 1) 4.53 min, m/e 379 (MH+).

reactant | 2-((4-(3-methyl-5-(pyridin-4-yl)-3H-1,2,3-triazol-4-yl)phenoxy)methyl)quinoline | CN1N=NC(=C1C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1)C1=CC=NC=C1 | C24H19N5O
reactant | 4-(1-(pyridin-4-yl)-1H-imidazol-2-yl)phenol | 90 mg | N1=CC=C(C=C1)N1C(=NC=C1)C1=CC=C(C=C1)O | C14H11N3O
reactant | 2-(chloromethyl)quinoline hydrochloride | 81 mg | Cl.ClCC1=NC2=CC=CC=C2C=C1
reactant | cesium carbonate | 495 mg | C([O-])([O-])=O.[Cs+].[Cs+]
product | 2-((4-(1-(pyridin-4-yl)-1H-imidazol-2-yl)phenoxy)methyl)quinoline | 84% | N1=CC=C(C=C1)N1C(=NC=C1)C1=CC=C(OCC2=NC3=CC=CC=C3C=C2)C=C1 | C24H18N4O
